US07435823B2
Step (a) Preparation of 7-methoxyquinolin-4-ol
To a solution of 1-(2-amino-4-methoxyphenyl)ethanone [J Med Chem, 32(4):807-826 (1989)] (7.32 g, 44.3 mmol) in dioxane (150 mL), NaOt-Bu (9.8 g, 102 mmol) was added and stirred at RT for 30 min. The color changed from lime green to dark green. Ethyl formate (23.64 mL, 292 mmol) was added with an additional 20 mL dioxane. The reaction mixture was stirred at RT 18 h after which the mixture was poured into water (20 mL) and the pH adjusted to 7 with 2N HCl. The solution was evaporated a little. The red solid was filtered and rinsed with water. The solid was triturated with 1:1 EtOAc:hexanes and then filtered to give the title compound as a brown solid.

reactant | 1-(2-amino-4-methoxyphenyl)ethanone | 44.3 mmol, 7.32 g | NC1=C(C=CC(=C1)OC)C(C)=O | C9H11NO2
reactant | NaOt-Bu | 102 mmol, 9.8 g | CC(C)(C)[O-].[Na+]
reactant | Ethyl formate | 292 mmol, 23.64 mL | C(=O)OCC | C3H6O2
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | 7-methoxyquinolin-4-ol | COC1=CC=C2C(=CC=NC2=C1)O | C10H9NO2
